### PR TITLE
Lemma 5.1.1

### PR DESCRIPTION
**Pull request by austinletson**

### CODE REVIEW

File: Carleson/DiscreteCarleson.lean [hunk 1]
```diff
@@ -476,8 +476,19 @@ lemma third_exception : volume (G₃ (X := X)) ≤ 2 ^ (- 4 : ℤ) * volume G :=
...
+    _ ≤ volume G₁ + volume G₂ + volume G₃ :=
+      le_add_of_le_add_right (measure_union_le _ G₃) (measure_union_le _ _)
+    _ ≤ 2 ^ (- 4 : ℤ) * volume G + 2 ^ (- 4 : ℤ) * volume G + 2 ^ (- 4 : ℤ) * volume G :=
+      add_le_add_three first_exception second_exception third_exception
+    _ = (3 : ℝ≥0∞) * 2 ^ (-4 : ℤ) * volume G := by ring
+    _ ≤ 2 ^ (- 2 : ℤ) * volume G := by
+      have coefficient_inequality : (3 : ℝ≥0∞) * 2 ^ (-4 : ℤ) ≤ (2 : ℝ≥0∞) ^ (-2 : ℤ) := by
+        change ((3 : ℝ≥0) : ℝ≥0∞) * (2 : ℝ≥0) ^ (-4 : ℤ) ≤ (2 : ℝ≥0) ^ (-2 : ℤ)
+        repeat rw [← ENNReal.coe_zpow (show (2 : ℝ≥0) ≠ 0 by norm_num)]
+        norm_cast; rw [← NNReal.coe_le_coe]; norm_num
```
Comment (pitmonticone) [inline Carleson/DiscreteCarleson.lean:490]: Line 490 can be simplified as follows:

```suggestion
        rw_mod_cast [← NNReal.coe_le_coe]; norm_num
```

This change has been tested, so you could commit it directly if you like.

File: Carleson/DiscreteCarleson.lean [hunk 2]
```diff
@@ -476,8 +476,19 @@ lemma third_exception : volume (G₃ (X := X)) ≤ 2 ^ (- 4 : ℤ) * volume G :=
   sorry
 
 /-- Lemma 5.1.1 -/
-lemma exceptional_set : volume (G' : Set X) ≤ 2 ^ (- 2 : ℤ) * volume G :=
-  sorry
+lemma exceptional_set : volume (G' : Set X) ≤ 2 ^ (- 2 : ℤ) * volume G := by
```
Comment (Rida-Hamadani) [inline Carleson/DiscreteCarleson.lean:479]:
```suggestion
lemma exceptional_set : volume (G' : Set X) ≤ 2 ^ (- 2 : ℤ) * volume G :=
```
This doesn't need to be in tactic mode because you are converting to calc mode after it

File: Carleson/DiscreteCarleson.lean [hunk 3]
```diff
@@ -476,8 +476,19 @@ lemma third_exception : volume (G₃ (X := X)) ≤ 2 ^ (- 4 : ℤ) * volume G :=
...
+  calc volume G'
+    _ ≤ volume G₁ + volume G₂ + volume G₃ :=
+      le_add_of_le_add_right (measure_union_le _ G₃) (measure_union_le _ _)
+    _ ≤ 2 ^ (- 4 : ℤ) * volume G + 2 ^ (- 4 : ℤ) * volume G + 2 ^ (- 4 : ℤ) * volume G :=
+      add_le_add_three first_exception second_exception third_exception
+    _ = (3 : ℝ≥0∞) * 2 ^ (-4 : ℤ) * volume G := by ring
+    _ ≤ 2 ^ (- 2 : ℤ) * volume G := by
```
Comment (Rida-Hamadani) [inline Carleson/DiscreteCarleson.lean:486]:
```suggestion
    _ ≤ 2 ^ (- 2 : ℤ) * volume G :=
```
And then remove the exact at the bottom.

File: Carleson/DiscreteCarleson.lean [hunk 4]
```diff
@@ -476,8 +476,19 @@ lemma third_exception : volume (G₃ (X := X)) ≤ 2 ^ (- 4 : ℤ) * volume G :=
...
+      have coefficient_inequality : (3 : ℝ≥0∞) * 2 ^ (-4 : ℤ) ≤ (2 : ℝ≥0∞) ^ (-2 : ℤ) := by
+        change ((3 : ℝ≥0) : ℝ≥0∞) * (2 : ℝ≥0) ^ (-4 : ℤ) ≤ (2 : ℝ≥0) ^ (-2 : ℤ)
+        repeat rw [← ENNReal.coe_zpow (show (2 : ℝ≥0) ≠ 0 by norm_num)]
+        norm_cast; rw [← NNReal.coe_le_coe]; norm_num
+      exact mul_le_mul_right' coefficient_inequality _
```
Comment (Rida-Hamadani) [inline Carleson/DiscreteCarleson.lean:491]:
```suggestion
      mul_le_mul_right' coefficient_inequality _
```

File: Carleson/DiscreteCarleson.lean (hunk 1 above)
Comment (austinletson) [reply Carleson/DiscreteCarleson.lean]: Thanks!

File: Carleson/DiscreteCarleson.lean (hunk 2 above)
Comment (austinletson) [reply Carleson/DiscreteCarleson.lean]: Done. Thanks!

**Comment by fpvandoorn** [comment]
Thanks!
